US05348964
Generate sodium ethoxide by carefully adding sodium metal (620 mg, 27 mmol) to absolute ethanol (25 mL) under nitrogen atmosphere and stirring until evolution of hydrogen gas ceases. Cool to 0° C. and add, by dropwise addition, a solution of 3-methyl-l-butanethiol (2.8 g, 27 mmol) in absolute ethanol (25 mL). Stir for 30 mintutes at 0° C., cool to -70° C. and transfer via cannula to another flask containing a solution of 1-bromo-5-chloropentane (5.0 g, 27 mmol) in absolute ethanol (25 mL) at -30° C. Stir at -30° C. for 30 minutes, then allow to warm to room temperature and stir overnight. Add additional sodium ethoxide and stir for 30 minutes at room temperature. Concentrate in vacuo, partition between water and ethyl ether and separate the organic phase. Extract the aqueous phase with ethyl ether (2×50 mL), combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo to yield 4.89 g of 5-chloropentyl isopentyl sulfide as a clear oil; MS (CI/CH4) m/z 209(M+1), 173(M+1-HCl).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 27 mmol, 620 mg | [Na] | Na
reactant | hydrogen | [H][H] | H2
reactant | 3-methyl-l-butanethiol | 27 mmol, 2.8 g | CC(CCS)C | C5H12S
reactant | 1-bromo-5-chloropentane | 27 mmol, 5.0 g | BrCCCCCCl | C5H10BrCl
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-chloropentyl isopentyl sulfide | 4.89 g | C(CC(C)C)SCCCCCCl | C10H21ClS
